US07700641B2
Synthesis of 1′-(1,2,4-oxadiazol-3-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 3-(chloromethyl)-1,2,4-oxadiazole to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (36%)) as a colorless solid: mp 160-162° C.; 1H NMR (300 MHz, CDCl3) δ 7.39 (dt, 1H), 7.20-7.13 (m, 3H), 7.05 (d, 1H), 6.50 (s, 1H), 6.12 (s, 1H), 5.86 (dd, 2H), 4.78 (ABq, 2H), 4.68 (s, 2H); 13C NMR (75 MHz, CDCl3) δ 176.7, 156.0, 149.3, 142.5, 139.6, 131.6, 129.4, 124.8, 124.5, 118.4, 113.6, 108.7, 103.0, 101.7, 93.7, 80.3, 58.2, 29.7, 28.0; MS (ES+) m/z 365.2 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 3-(chloromethyl)-1,2,4-oxadiazole | ClCC1=NOC=N1 | C3H3ClN2O
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-(1,2,4-oxadiazol-3-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | O1N=C(N=C1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C19H13N3O5
